US07390903B2
To a stirred solution of 60 mg (0.18 mmol) (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-(3,4-dichloro-phenyl)-methanone in 2 ml acetic acid was added 31 mg (0.24 mmol) of 1-cyclopropyl-butane-1,3-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 18 mg (23%) cyclopropyl-[(4-(3,4-dichloro-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno [2,3-b]pyridin-3-yl)]-methanone as a light brown solid. ES-MS m/e (%): 416 (M+H+, 100).

reactant | (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-(3,4-dichloro-phenyl)-methanone | 0.18 mmol, 60 mg | NC1=C(C2=C(S1)CCCC2)C(=O)C2=CC(=C(C=C2)Cl)Cl | C15H13Cl2NOS
reactant | 1-cyclopropyl-butane-1,3-dione | 0.24 mmol, 31 mg | C1(CC1)C(CC(C)=O)=O | C7H10O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | cyclopropyl-[(4-(3,4-dichloro-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno [2,3-b]pyridin-3-yl)]-methanone | 18 mg, 23% | C1(CC1)C(=O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC(=C(C=C1)Cl)Cl | C22H19Cl2NOS
